US05223499
To a stirred solution of 2-amino-3-nitropyridine (8.74 g, 63 mmol) in conc. H2SO4 (50 mL) at 0° C. was added HNO3 (3.10 mL, d=1.49) drop-wise over 10 min. The mixture was warmed to r.t. for 20 min then heated to 50° C. for 90 min. The reaction mixture was cooled and poured into 400 g of ice. The resulting precipitate was filtered, washed with cold water, and air dried to give 2-amino-3,5-dinitropyridine as a yellow solid.

reactant | 2-amino-3-nitropyridine | 63 mmol, 8.74 g | NC1=NC=CC=C1[N+](=O)[O-] | C5H5N3O2
reactant | HNO3 | 3.10 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | 2-amino-3,5-dinitropyridine | NC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H4N4O4
